US05580866
A solution of 6-methyl-2,3,4,5-tetrahydro-1,4-benzothiazepine (0.91 g, prepared in a similar manner to its hydrochloride, Example 4 above) in acetic anhydride (10 ml) was stirred at room temperature for one hour. The reaction mixture was poured into ice and extracted with dichloromethane. The organic layer was dried and the solvent removed by evaporation to give 4-acetyl-6-methyl-2,3,4,5-tetrahydro-1,4-benzothiazepine, which was recrystallised from hexane. Yield 0.93 g (m.p. 71°-73° C.).

reactant | 6-methyl-2,3,4,5-tetrahydro-1,4-benzothiazepine | CC1=CC=CC2=C1CNCCS2 | C10H13NS
reactant | hydrochloride | Cl | ClH
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-acetyl-6-methyl-2,3,4,5-tetrahydro-1,4-benzothiazepine | C(C)(=O)N1CCSC2=C(C1)C(=CC=C2)C | C12H15NOS
